US07338973B2
11-Methyl-6,11-dihydro-5-thia-11-aza-benzo[a]fluorene-8-carboxylic acid methyl ester
6,11-dihydro-5-thia-11-aza-benzo[a]fluorene-3,8-diol (1 mmol, 330 mg), as prepared in Example 31, in THF (15 ml) was treated with n-BuLi (2.0 M, 0.6 ml, 1.2 mmol) at −78° C. for 30 minutes, then methyl chloroformate (1 equivalent) was added drop by drop to the reaction mixture at −78° C. After slowly warming up to room temperature, the reaction mixture was quenched by saturated ammonium chloride, extracted by ethyl acetate and purified by chromatography (Hexane:ethyl acetate=5:1) to yield the title compound as a white solid.

reactant | 6,11-dihydro-5-thia-11-aza-benzo[a]fluorene-3,8-diol | 1 mmol, 330 mg | C1=CC(=CC2=C1C=1NC3=CC=C(C=C3C1CS2)O)O | C15H11NO2S
reactant | n-BuLi | 1.2 mmol, 2.0 M, 0.6 ml | [Li]CCCC
reactant | methyl chloroformate | 1 equivalent | ClC(=O)OC | C2H3ClO2
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 11-Methyl-6,11-dihydro-5-thia-11-aza-benzo[a]fluorene-8-carboxylic acid methyl ester | COC(=O)C=1C=C2C=3CSC4=C(C3N(C2=CC1)C)C=CC=C4 | C18H15NO2S
